US04775674
Sodium (4.92 g, 0.21 g atom) was dissolved in absolute ethanol (600 mL) and diethyl 2,4-dioxoimidazolidine-5-phosphonate (50.5 g, 0.21 mole) added. After 10 minutes, a solution of ethyl 4-(3-formyl-4-nitrophenoxy)butanoate (50.0 g, 0.18 mole) in ethanol (100 mL) was added in one portion. The mixture was stirred for 2 hours, concentrated in vacuo to about 250 mL and diluted with water. After 20 minutes the precipitate was filtered off. Two further crops were subsequently collected from mother liquors. Combined solids were dried in vacuo over P2O5 to afford ethyl 4-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenoxy]butanoate (61.3 g, 95%) which by NMR was a 4:1 mixture of geometrical isomers. An analytical sample of the major isomer was obtained by crystallization from aqueous ethanol and had m.p. 131°-134° C.

reactant | Sodium | 4.92 g | [Na] | Na
reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | 0.21 mole, 50.5 g | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
reactant | ethyl 4-(3-formyl-4-nitrophenoxy)butanoate | 0.18 mole, 50.0 g | C(=O)C=1C=C(OCCCC(=O)OCC)C=CC1[N+](=O)[O-] | C13H15NO6
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 4-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenoxy]butanoate | 61.3 g, 95% | O=C1NC(C(N1)=O)=CC=1C=C(OCCCC(=O)OCC)C=CC1[N+](=O)[O-] | C16H17N3O7
